US04963590
4-(3,4-Dihydroxy-5-nitrophenyl)-3-methylbut-3-en-2-one
A solution containing 0.5 g of 3,4-dihydroxy-5-nitrobenzaldehyde in 2.0 ml of butanone was saturated with gaseous hydrogen chloride. After standing over night ether was added to the solution and it was filtered. The product was crystallized from isopropanol, yield 0.2 g (30%), m.p.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.5 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
reactant | butanone | 2.0 ml | CC(CC)=O | C4H8O
product | 4-(3,4-Dihydroxy-5-nitrophenyl)-3-methylbut-3-en-2-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C(C(C)=O)C | C11H11NO5
